### PR TITLE
Updating files to use n-Type convention

### PR DESCRIPTION
**Pull request by IanRay11**
Truncations and ConnectedTypes will now use the TruncationLevels Martin developed

### CODE REVIEW

**Comment by martinescardo** [comment]
The github checks failed.

**Review by martinescardo — CHANGES_REQUESTED** [review]
The github checks failed.

**Comment by IanRay11** [comment]
Yeah I need to take a look at what is going on after checks this time.

**Comment by IanRay11** [comment]
Okay checks are good now. I am going to clean these up a bit and I'll ping someone when I am ready for review.

**Comment by ayberkt** [comment]
I noticed that the commit [63e1847](https://github.com/martinescardo/TypeTopology/pull/325/commits/63e184763c0619605ba182845175ad3dcaba3748) failed with the message

```
 Not in scope:
  H-level-truncations-exist
  at /github/workspace/source/UF/ConnectedTypes.lagda:38,28-53
    (did you mean
       '.#UF.Truncations-6776310292709628759.general-truncations-exist' or
       'general-truncations-exist'?)
when scope checking H-level-truncations-exist
```

Why does it think that there is a file `.#UF.Truncations-6776310292709628759`? Was an Emacs lock file accidentally comitted at some point maybe? This might be something to be careful about.

**Comment by IanRay11** [comment]
> I noticed that the commit [63e1847](https://github.com/martinescardo/TypeTopology/pull/325/commits/63e184763c0619605ba182845175ad3dcaba3748) failed with the message
> 
> ```
>  Not in scope:
>   H-level-truncations-exist
>   at /github/workspace/source/UF/ConnectedTypes.lagda:38,28-53
>     (did you mean
>        '.#UF.Truncations-6776310292709628759.general-truncations-exist' or
>        'general-truncations-exist'?)
> when scope checking H-level-truncations-exist
> ```
> 
> Why does it think that there is a file `.#UF.Truncations-6776310292709628759`? Was an Emacs lock file accidentally comitted at some point maybe? This might be something to be careful about.

I think I figured out what happened. I called an outdated term: "H-level-truncations-exist" is what it was called prior to the switch to n-Type terminology.

**Comment by ayberkt** [comment]
@IanRay11  By the way, to test the new cached CI checks, can I ask you to merge `master` into your branch by

  1. switching to `Truncation-replace-H`, and then
  2. running `git merge master`.

If you push the merge commit after that, we will hopefully see that the CI check for that commit takes about only two minutes to complete.

**Comment by IanRay11** [comment]
@ayberkt okay. I'll do this later today.

**Comment by IanRay11** [comment]
@tomdjong Ready for review

File: source/UF/Truncations.lagda [hunk 1]
```diff
@@ -2,12 +2,12 @@ Ian Ray, 23 July 2024
 
 Minor modifications by Tom de Jong on 4 September 2024
```
Comment (tomdjong) [inline source/UF/Truncations.lagda:3]: Please record that you've made changes in September 2024.

**Review by tomdjong — COMMENTED** [review]
Thank you @IanRay11 for making these changes :)
I only have some minor comments. I will (try to) be afk for 2.5 weeks, so maybe @martinescardo can pick this up later if need be.

File: source/UF/Truncations.lagda [hunk 2]
```diff
@@ -16,37 +16,40 @@ globally as many important properties hold in the absence of univalence.
...
+open import UF.TruncationLevels
+open import UF.TruncatedTypes fe
 open import UF.Univalence
 open import UF.Yoneda
+open import Notation.Decimal
 
 \end{code}
 
-We define the notion of a n-truncation using record types.
+We define the general notion of truncations using record types.
```
Comment (martinescardo) [inline source/UF/Truncations.lagda:38]: I think "general notion of truncation" (singular) is the common usage.

File: source/UF/Truncations.lagda [hunk 3]
```diff
@@ -125,53 +129,54 @@ computation rules.
...
- two-trunc-is-set : {X : 𝓤 ̇ } → is-set (∥ X ∥[ 2 ])
- two-trunc-is-set {𝓤} {X} {x} {y} =
-  is-prop'-implies-is-prop (∥∥ₙ-hlevel x y)
+ 0-trunc-is-set : {X : 𝓤 ̇ } → is-set (∥ X ∥[ 0 ])
+ 0-trunc-is-set {𝓤} {X} {x} {y} =
+  is-prop'-implies-is-prop (∥∥ₙ-is-truncated x y)
 
 \end{code}
 
 We demonstrate the equivalence of one-truncation and propositional truncation:
```
Comment (martinescardo) [inline source/UF/Truncations.lagda:158]: Write "1-truncation" to be consistent.

File: source/UF/Truncations.lagda [hunk 4]
```diff
@@ -180,44 +185,44 @@ equivalence and successive applications of truncation (TODO: other closure
...
                                       → (f g : ∥ X ∥[ n ] → ∥ Y ∥[ n ])
                                       → ((x : X)
                                             → f (∣ x ∣[ n ]) ＝ g (∣ x ∣[ n ]))
                                       → f ∼ g
  to-∼-of-maps-between-truncated-types {𝓤} {𝓥} {X} {Y} {n} f g =
-  to-∼-of-maps-with-truncated-domain f g ∥∥ₙ-hlevel
+  to-∼-of-maps-with-truncated-domain f g ∥∥ₙ-is-truncated
 
- truncation-closed-under-equiv : {X : 𝓤 ̇} {Y : 𝓥 ̇} {n : ℕ}
+ truncation-closed-under-equiv : {X : 𝓤 ̇} {Y : 𝓥 ̇} {n : ℕ₋₂}
```
[the remark this answers is not in the document]
Comment (martinescardo) [reply source/UF/Truncations.lagda:217]: I approve of this suggestion, to be implemented in a future pull request.

**Review by martinescardo — CHANGES_REQUESTED** [review]
Nice. @tomdjong made some suggestions which I agree with, and I also made minor suggestions. After you implement them, we can merge.

File: source/UF/Truncations.lagda (hunk 4 above)
[the remark this answers is not in the document]
Comment (IanRay11) [reply source/UF/Truncations.lagda:217]: Interesting! Should I add a TODO @martinescardo?

File: source/UF/Truncations.lagda (hunk 3 above)
Comment (IanRay11) [reply source/UF/Truncations.lagda:158]: Ahh yes. In fact it should be -1-truncation.

File: source/UF/Truncations.lagda (hunk 4 above)
[the remark this answers is not in the document]
Comment (martinescardo) [reply source/UF/Truncations.lagda:294]: Sure!

File: source/UF/ConnectedTypes.lagda [hunk 5]
```diff
@@ -1,8 +1,10 @@
 Ian Ray, 23rd July 2024
 
-We define connected types and maps (recall our convention that H-levels start
-at 0). We then explore relationships, closure properties and characterizations
-of interest pertaining to the concept of connectedness.
+Modifactions made on 26th September 2024
```
Comment (martinescardo) [inline source/UF/ConnectedTypes.lagda:3]: Typo "Modifactions".

File: source/UF/TruncationLevels.lagda [hunk 6]
```diff
@@ -79,3 +80,72 @@ instance
...
+  IH : Σ k ꞉ ℕ , m + k ＝ n
+  IH = subtraction-ℕ₋₂ m n o
+  k = pr₁ IH
+  q = pr₂ IH 
+  p : (succ m + k) ＝ succ n
+  p = succ m + k ＝⟨ succ-ℕ₋₂-assoc m k ⟩
+      succ(m + k)＝⟨ ap succ q ⟩
+      succ n     ∎
+
+subtraction-ℕ₋₂-term : (m n : ℕ₋₂) → m ≤ℕ₋₂ n → ℕ
```
Comment (martinescardo) [inline source/UF/TruncationLevels.lagda:143]: And here.

File: source/UF/TruncatedTypes.lagda [hunk 7]
```diff
@@ -0,0 +1,229 @@
...
+Truncation levels are upper closed.
+
+\begin{code}
+
+contractible-types-are-props' : {X : 𝓤 ̇} → is-contr X → is-prop' X
+contractible-types-are-props' = is-prop-implies-is-prop' ∘ singletons-are-props
+
+truncation-levels-are-upper-closed : {n : ℕ₋₂} {X : 𝓤 ̇ }
+                                   → X is n truncated
+                                   → X is (n + 1) truncated
```
Comment (martinescardo) [inline source/UF/TruncatedTypes.lagda:92]: Here is line 92 for reference below.

File: source/UF/TruncatedTypes.lagda [hunk 8]
```diff
@@ -0,0 +1,229 @@
...
+\end{code}
+
+From univalence we can show that 𝕋 n is n + 1 truncated,
+for all n : ℕ₋₂.
+
+\begin{code}
+
+truncation-levels-closed-under-≃⁺ : {n : ℕ₋₂} {X : 𝓤 ̇ } {Y : 𝓥 ̇ }
+                                  → Y is (n + 1) truncated
+                                  → (X ≃ Y) is (succ n) truncated
```
Comment (martinescardo) [inline source/UF/TruncatedTypes.lagda:204]: Every time you write `succ n`, except in pattern matching, you should probably write `n + 1` like in line 92 above.

Oh, actually in line 203, you do write `n + 1`, but in line 204 you write `succ n`.

I suggest you make this modification everywhere in all files. There are several occurrences of this below.

File: source/UF/TruncationLevels.lagda (hunk 6 above)
Comment (IanRay11) [reply source/UF/TruncationLevels.lagda:143]: Okay take a look now. Also would you like me to use it when I am defining something in line where it is used in patternmatching. For example see the definition of succ-ℕ₋₂-assoc

**Comment by IanRay11** [comment]
@martinescardo ill go over everything again tonight and make sure I got all typos and removed all succ other than pattern matching.

File: source/UF/TruncationLevels.lagda [hunk 9]
```diff
@@ -79,3 +80,72 @@ instance
...
+
+telescoping-sum-2 : (n : ℕ₋₂) → (−2 + ℕ₋₂-to-ℕ' (succ (succ n))) ＝ n
+telescoping-sum-2 −2 = refl
+telescoping-sum-2 (succ n) = ap succ (telescoping-sum-2 n)
+
+succ-ℕ₋₂-assoc : (m : ℕ₋₂) (n : ℕ) → succ m + n ＝ succ(m + n)
+succ-ℕ₋₂-assoc m 0 = refl
+succ-ℕ₋₂-assoc m (succ n) = ap succ (succ-ℕ₋₂-assoc m n)
+
+subtraction-ℕ₋₂ : (m n : ℕ₋₂) → m ≤ℕ₋₂ n → Σ k ꞉ ℕ , m + k ＝ n
```
Comment (martinescardo) [inline source/UF/TruncationLevels.lagda:130]: Sorry to be picky. Couldn't you just write `m ≤ n` instead of `m ≤ℕ₋₂ n`?

File: source/UF/TruncationLevels.lagda [hunk 10]
```diff
@@ -79,3 +80,72 @@ instance
...
+  IH : Σ k ꞉ ℕ , m + k ＝ n
+  IH = subtraction-ℕ₋₂ m n o
+  k = pr₁ IH
+  q = pr₂ IH 
+  p : (m + 1) + k ＝ n + 1
+  p = (m + 1) + k ＝⟨ succ-ℕ₋₂-assoc m k ⟩
+      (m + k) + 1 ＝⟨ ap succ q ⟩
+      n + 1       ∎
+
+subtraction-ℕ₋₂-term : (m n : ℕ₋₂) → m ≤ℕ₋₂ n → ℕ
```
Comment (martinescardo) [inline source/UF/TruncationLevels.lagda:143]: Again regarding less-than.

File: source/UF/TruncationLevels.lagda (hunk 9 above)
Comment (IanRay11) [reply source/UF/TruncationLevels.lagda:130]: No problem I miss that!

**Review by martinescardo — CHANGES_REQUESTED** [review]
Two more, minor changes.

**Review by martinescardo — APPROVED** [review]
Thanks.
